US06130332
A mixture of 14.5 g (0.1 mol.) of 2,4-diamino-6-chloro-1,3,5-triazine produced in the Referential Example 1 and 280 mL of water was heated to 85° C. and was dropwise added with 29.7 g (0.3 mol.) of cyclohexylamine over two hours and further reacted at the same temperature for one hour. Successively, a solution of 6.0 g of sodium hydroxide in 30 mL of water was dropwise added to the reaction solution over one hour and the reaction was further continued for one hour. 200 mL of toluene was added in the reaction solution and(stirred at 85° C. for one hour. The stirring was continued to cool the termperature of the solution to the room temperature. Product was separated from the reaction solution through filtration and washed twice with each 100 mL of toluene and twice with each 100 mL of water, successively. The filtrated product was dried at 70° C. for six hours under vacuum to obtain 17.5 g of 4,6-diamino-2-cyclohexylamino-1,3,5-triazine (yield: 84%).

reactant | 2,4-diamino-6-chloro-1,3,5-triazine | 0.1 mol, 14.5 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | cyclohexylamine | 0.3 mol, 29.7 g | C1(CCCCC1)N | C6H13N
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
solvent | water | 280 mL | O | H2O
product | 4,6-diamino-2-cyclohexylamino-1,3,5-triazine | 17.5 g, yield: 84% | NC1=NC(=NC(=N1)N)NC1CCCCC1 | C9H16N6
